US06294558B1
4,4,4-Trifluoro-1-[4-(1-Imidazolyl)phenyl]butane-1,3-dione (step 1)
To a THF (5 mL) solution of 1,1,1,3,3,3-hexamethyldisilazane (0.178 g, 1.1 mmol) was added n-butyl lithum (1.6 M solution in hexane, 0.72 mL, 1.2 mmol) at 0° C. under nitrogen, and the mixture was stirred for 30 minutes, and cooled to −78° C. 4-(1-Imidazolyl)acetophenone (prepared according the method of M. A. Khan et. al., J. Chem. Soc. C., 1970, 85., 0.186 g, 1.0 mmol) was added to the mixture, and residue was stirred for 1 hour. Ethyl trifluoroacetate (0.17 g, 1.2 mmol) was added to the reaction mixture, the residure was warm to room temperature. The reaction mixture was poured into ice water and the whole was extracted with ethyl acetate (30 mL×2). The organic layer was washed with brine, dried over Na2SO4, and concentrated in vacuo. The resulting solid was washed with small amount of ethyl acetate to give the title compound (0.163 g).

reactant | 1,1,1,3,3,3-hexamethyldisilazane | 1.1 mmol, 0.178 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyl lithum | 1.2 mmol, 1.6 M, 0.72 mL | C(CCC)[Li]
reactant | 4-(1-Imidazolyl)acetophenone | CC(=O)C1=CC=C(C=C1)N2C=CN=C2 | C11H10N2O
reactant | Ethyl trifluoroacetate | 1.2 mmol, 0.17 g | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4,4,4-Trifluoro-1-[4-(1-Imidazolyl)phenyl]butane-1,3-dione | 0.163 g | FC(C(CC(=O)C1=CC=C(C=C1)N1C=NC=C1)=O)(F)F | C13H9F3N2O2
